US04337268
27.1 g (0.1 mol) of 2,6-dimethyl-N-acetonyl-N-(2-furoyl)-aniline, 14 g (0.2 mol) of hydroxyammonium chloride and 15 ml of triethylamine in 150 ml of ethanol were heated under reflux for 3 hours. The reaction mixture was then largely freed from solvent in vacuo, the residue was taken up in methylene chloride and the methylene chloride mixture was washed with water, dried over sodium sulphate and concentrated. The crystalline residue was triturated with ether and the solid was filtered off. 24.4 g (85% of theory) of 2,6-dimethyl-N-(2-furoyl)-N-(2-hydroxyimino-prop-1-yl)-aniline of melting point 155°-156° C. were obtained.

reactant | 2,6-dimethyl-N-acetonyl-N-(2-furoyl)-aniline | 0.1 mol, 27.1 g | CC1=C(N(C(=O)C=2OC=CC2)CC(=O)C)C(=CC=C1)C | C16H17NO3
reactant | hydroxyammonium chloride | 0.2 mol, 14 g | [Cl-].O[NH3+]
reactant | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,6-dimethyl-N-(2-furoyl)-N-(2-hydroxyimino-prop-1-yl)-aniline | 24.4 g, 85% | CC1=C(N(CC(C)=NO)C(=O)C=2OC=CC2)C(=CC=C1)C | C16H18N2O3
